US09120777B2
A) 1-Bromo-2-fluoro-3-(methoxymethoxy)benzene
Chloro(methoxy)methane (11.8 mL) was added at 0 C to a THF (150 mL) solution of 3-bromo-2-fluorophenol (15.0 g) and N,N-diisopropylethylamine (41.1 mL). The reaction mixture was stirred overnight at room temperature in a nitrogen atmosphere and then filtered through celite. The obtained filtrate was washed with 1 M hydrochloric acid and a saturated aqueous solution of sodium bicarbonate in this order, and then, the solvent was distilled off under reduced pressure. The obtained residue was passed through a short silica gel column (NH, hexane/ethyl acetate), and the solvent was distilled off under reduced pressure to obtain the title compound (17.9 g)

reactant | Chloro(methoxy)methane | 11.8 mL | ClCOC | C2H5ClO
reactant | 3-bromo-2-fluorophenol | 15.0 g | BrC=1C(=C(C=CC1)O)F | C6H4BrFO
reactant | N,N-diisopropylethylamine | 41.1 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 1-Bromo-2-fluoro-3-(methoxymethoxy)benzene | 17.9 g | BrC1=C(C(=CC=C1)OCOC)F | C8H8BrFO2
